US04129590
A 45.0 g amount of (62.5%) 1-naphthylamine-3,7-disulfonic acid is suspended in 200 ml of water and 30 ml of 5N sodium hydroxide is added to it. The solution is warmed and absolute ethyl alcohol is added until a cloudy precipitate forms. The solution is cooled and the solid is collected by filtration and is washed with 85% ethyl alcohol, ethyl alcohol and ether. The product is dried in vacuo at 110° C. to give 21.0 g of 4-amino-2,6-naphthalenedisulfonic acid disodium salt.

reactant | 1-naphthylamine-3,7-disulfonic acid | C1=CC(=CC2=C(C=C(C=C21)S(=O)(=O)O)N)S(=O)(=O)O | C10H9NO6S2
reactant | sodium hydroxide | 5N, 30 ml | [OH-].[Na+]
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 4-amino-2,6-naphthalenedisulfonic acid disodium salt | 21.0 g | [Na+].[Na+].NC1=CC(=CC2=CC=C(C=C12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C10H9NO6S2.2Na/c11-10-5-8(19(15,16)17)3-6-1-2-7(4-9(6)10)18(12,13)14;;/h1-5H,11H2,(H,12,13,14)(H,15,16,17);;/q;2*+1/p-2
